US04444583
(a) N-[2.5-Bis(difluoromethoxy)phenylsulfonyl]-N'-methylurea
14.5 g of 2.5-bis(difluoromethoxy)phenylsulfonamide are suspended in 50 ml of absolute methylene chloride. Then 3.5 g of methyl isocyanate are added and 6.3 g of triethylamine are subsequently added dropwise over 10 minutes to form a clear solution. The solution is stirred at room temperature for a further hour, evaporated to dryness, and the residue is dissolved in 5% sodium carbonate solution. N-[2,5-bis(difluoromethoxy)phenylsulfonyl]-N'-methylurea with a melting point of 162°-165° C., is precipitated from the solution by acidification with 10% hydrochloric acid. Yield: 15.0 g.

reactant | 2.5-bis(difluoromethoxy)phenylsulfonamide | 14.5 g | FC(OC1=C(C=C(C=C1)OC(F)F)S(=O)(=O)N)F | C8H7F4NO4S
reactant | methyl isocyanate | 3.5 g | CN=C=O | C2H3NO
reactant | triethylamine | 6.3 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[2.5-Bis(difluoromethoxy)phenylsulfonyl]-N'-methylurea | FC(OC1=C(C=C(C=C1)OC(F)F)S(=O)(=O)NC(=O)NC)F | C10H10F4N2O5S
